US05223523
Preparation of 5-Methyl-5-(4-phenoxyphenyl)-3-(phenylamino)-2,4-oxazolidinedione
A solution of 5-methyl-5-(4-phenoxyphenyl)-3-phenylamino-2-thioxooxazolidin-4-one (2 g, 0.0051 moles) in 50 mls of acetone (0.1M) was treated at room temperature with a solution of KHSO5OXONE®, 4.72 g, 0.0154 moles) in 20 mls of water. The white slurry was heated at 50° C. for two hours then cooled to room temperature and filtered. The residue was washed with fresh acetone and the filtrates were evaporated under reduced pressure until all the acetone distilled away. The residue was dissolved in methylene chloride and washed with water and brine. The organic layer was dried (MgSO4), filtered, and evaporated to give the crude product. Recrystallization from 1-chlorobutane and petroleum ether afforded 1.68 g (88% of theoretical) of pure product as a white solid with a melting point of 140°-142° C.

reactant | 5-methyl-5-(4-phenoxyphenyl)-3-phenylamino-2-thioxooxazolidin-4-one | 0.0051 moles, 2 g | CC1(C(N(C(O1)=S)NC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C22H18N2O3S
reactant | acetone | 0.1M, 50 mls | CC(=O)C | C3H6O
solvent | water | 20 mls | O | H2O
product | 5-Methyl-5-(4-phenoxyphenyl)-3-(phenylamino)-2,4-oxazolidinedione | CC1(C(N(C(O1)=O)NC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C22H18N2O4
